US05710308
Using 501.2 g of dichlorophenylphosphine, 3.2 g of t-butyl peroxybenzoate, 201.8 g of acrylic acid, and 0.92 L of water, a rinse-purified 3-[hydroxy(phenyl)phosphinyl]propionic acid was prepared by the procedure described in U.S. Pat. No. 5,334,760, namely the steps of hydrolyzing the reaction mixture after completion of the reaction, cooling it, harvesting the resulting crystals by filtration, rinsing the crystal crop with water, and drying it. The yield was 564.9 g or 94.2%. From the area ratio of the respective signals on the 1H-NMR spectrum, the molar ratio of 3-[hydroxy(phenyl)phosphinyl]propionic acid to phenylphosphinic acid was found to be 99.10:0.9. The other components were traces below the detection limit.

reactant | dichlorophenylphosphine | 501.2 g | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | t-butyl peroxybenzoate | 3.2 g | C(C1=CC=CC=C1)(=O)OOC(C)(C)C | C11H14O3
reactant | acrylic acid | 201.8 g | C(C=C)(=O)O | C3H4O2
reactant | water | 0.92 L | O | H2O
product | 3-[hydroxy(phenyl)phosphinyl]propionic acid | OP(=O)(CCC(=O)O)C1=CC=CC=C1 | C9H11O4P
